US07893058B2
Step 2: 4-{8-[3-Chloro-4-(4-methyl-piperazin-1-yl)-phenylamino]-imidazo[1,2-a]pyrazin-5yl}-benzamide
In the same way as described for Compound 178, step 4, using (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[3-chloro-4-(4-methyl-piperazin-1-yl)-phenyl]-amine (60.0 mg, 0.14 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide (46.0 mg, 0.28 mmol), Pd(PPh3)4 (40.0 mg, 0.035 mmol) and 1.5 M Na2CO3 (0.75 mL, 1.12 mmol) in 2:1 DMF-dioxane (3 mL). The crude residue is triturated with DCM and then the title compound is crystallised from EtOH (4 mg, 6%). LCMS: Rt 2.01 min (96%) m/z (APCI) 462 (M+H)+; 1H-NMR (400 MHz, d6-DMSO) δ (ppm). 2.27 (3H, s), 2.49-2.54 (4H, t), 2.99 (4H, m), 7.19 (1H, d), 7.53 (1H, br s), 7.60 (1H, s), 7.76 (1H, s), 7.84 (2H, d), 7.98 (1H, dd), 8.04 (1H, s), 8.09 (2H, d), 8.13 (1H, br s), 8.35 (1H, s), 9.86 (1H, s).

reactant | (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[3-chloro-4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.14 mmol, 60.0 mg | BrC1=CN=C(C=2N1C=CN2)NC2=CC(=C(C=C2)N2CCN(CC2)C)Cl | C17H18BrClN6
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | 0.28 mmol, 46.0 mg | CC1(OB(OC1(C)C)C1=CC=C(C(=O)N)C=C1)C | C13H18BNO3
reactant | Na2CO3 | 1.12 mmol, 1.5 M, 0.75 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.035 mmol, 40.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF dioxane | 3 mL | CN(C)C=O.O1CCOCC1
product | 4-{8-[3-Chloro-4-(4-methyl-piperazin-1-yl)-phenylamino]-imidazo[1,2-a]pyrazin-5yl}-benzamide | ClC=1C=C(C=CC1N1CCN(CC1)C)NC=1C=2N(C(=CN1)C1=CC=C(C(=O)N)C=C1)C=CN2 | C24H24ClN7O
